US07026323B2
To a solution of 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene (147 mg, 0.30 mmol) in CH2Cl2 (2.0 mL) was added TFA (3.0 mL). The resulting reaction mixture was stirred at ambient temperature for 3 hours. The reaction mixture was evaporated in vacuo to afford an oil, which was diluted with water (15 mL), adjusted to pH 4.5 by saturated NaHCO3, then extracted by ethyl acetate (3×15 mL). The organic layer was evaporated in vacuo to afford 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][carboxymethyl]aminonaphthalene (90 mg) as a solid; NMR (CDCl3) 1.26 (t, 3), 3.24–3.30 (m, 2), 3.35–3.42 (m, 6), 3.57 (m, 2), 4.14 (q, 2), 4.52 (s, 2), 7.48 (d, 1), 7.58 (m, 2), 7.84–7.94 (m, 4) ppm.

reactant | 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene | 0.30 mmol, 147 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC(=O)C1=C(C2=CC=CC=C2C=C1)NCC(=O)OC(C)(C)C | C26H33N3O6
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][carboxymethyl]aminonaphthalene | 90 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC(=O)C1=C(C2=CC=CC=C2C=C1)NCC(=O)O | C22H25N3O6
